US07576104B2
Heptanoic acid [2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-amide I-120
To a suspension of 4-amino-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione (0.10 g, 0.35 mmol) in THF (15 ml) was added heptanoyl chloride (0.10 g, 0.70 mmol). The mixture was heated to reflux for 18 h. The reaction mixture was allowed to cool and to the solution was added methanol (2 ml). The reaction mixture was stirred for an additional 15 minutes followed by solvent evaporation in vacuo. The resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.10 g (74%) of product as an off-white solid: mp 172-174° C.; 1H NMR (DMSO-d6) 11.05 (s, 1H), 9.65 (s, 1H), 8.50 (d, J=8.3 Hz, 1H), 7.79 (t, J=7.6 Hz, 1H), 7.52 (d, J=7.2 Hz, 1H), 2.77-2.43 (m, 5H), 2.08-2.03 (m, 1H), 1.90 (s, 3H), 1.61 (t, J=6.4 Hz, 2H), 1.29 (bs, 6H), 0.87 (t, J=6.3 Hz, 3H); 13C NMR (DMSO-d6) 172.12, 172.02, 168.74, 167.36, 136.41, 135.90, 131.20, 125.70, 117.71, 116.31, 58.81, 36.51, 30.93, 29.07, 28.54, 28.12, 24.69, 21.94, 20.98, 13.86; Anal. Calcd. For C21H25N3O5: C, 62.83; H, 6.33; N, 10.47 Found: C, 62.45; H, 6.18; N, 10.24+0.50H2O.

reactant | 4-amino-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.35 mmol, 0.10 g | NC1=C2C(N(C(C2=CC=C1)=O)C1(C(NC(CC1)=O)=O)C)=O | C14H13N3O4
reactant | heptanoyl chloride | 0.70 mmol, 0.10 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Heptanoic acid [2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-amide | 0.10 g, 74% | CC1(C(NC(CC1)=O)=O)N1C(C2=CC=CC(=C2C1=O)NC(CCCCCC)=O)=O | C21H25N3O5
